US07732605B2
The effect of the amount of TFA acid catalyst was evaluated. (S)-1-Allyl-3-benzyl-6-methylenepiperazine-2,5-dione was prepared by reacting N-2-oxo-propanoyl-L-phenylalanine allylamide with various amounts of trifluoroacetic acid for 24 hours. Enantiomeric excess of the product was determined by chiral HPLC using a CHIRALCEL OD column eluted with n-Hexane:Ethanol (5:1). The TFA amounts, product yields, and enantiometric excess presented in Table 2.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-2-oxo-propanoyl-L-phenylalanine allylamide | C(C=C)NC([C@@H](NC(C(C)=O)=O)CC1=CC=CC=C1)=O | C15H18N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-1-Allyl-3-benzyl-6-methylenepiperazine-2,5-dione | C(C=C)N1C([C@@H](NC(C1=C)=O)CC1=CC=CC=C1)=O | C15H16N2O2
